US08859591B2
A mixture of crude (+/−)-ethyl N-{4-[4,4,4-trifluoro-1-({6-[4-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}amino)butyl]benzoyl}-beta-alaninate (52 mg, 0.093 mmol) was dissolved in methanol (0.20 ml) and tetrahydrofuran (0.10 ml) and treated with aqueous lithium hydroxide (0.093 ml, 0.19 mmol, 2.0M). The mixture was stirred at ambient temperature for 1 hour. The crude reaction mixture was concentrated in vacuo and the residual solid was dissolved in water (0.50 ml) and treated with aqueous 1.0M hydrochloric acid until approximately pH 6 was reached, resulting in the precipitation of racemic N-{4-[4,4,4-trifluoro-1-({6-[4-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}amino)butyl]benzoyl}-beta-alanine as a white gummy solid. The two enantiomeric products were separated by chiral SFC Column: Chiralpak AD-H. Dimensions: 21×250 mm. Mobile Phase: 70/30 CO2/methanol, (peak 1, 0.30 g, 22% and peak 2, 0.30 g, 22%). Flow Rate: 65 mL/min. Modifier: none. Analytical SFC: Chiralpak AD-H, 4.6 mm×25 cm: SFC Mobile Phase 70:30 CO2/Methanol, 2.5 mL/min, analytical retention time: 2.97 min (Isomer 1) and 5.15 (Isomer 2). 1H NMR (400 MHz, CDCl3): δ 8.64 (s, 1H), 7.73-7.84 (m, 4H), 7.70 (d, J=8.8 Hz, 1H), 7.37-7.43 (m, 2H), 6.98 (br. dd, J=8.6, 2.0 Hz, 1H), 6.73-6.86 (m, 1H), 4.48 (br. t, J=6.3 Hz, 1H), 3.73 (br. q, J=5.9 Hz, 2H), 2.72 (br. t, J=5.8 Hz, 2H), 2.06-2.34 (m, 4H). MS (M+1): 530.3.

reactant | (+/−)-ethyl N-{4-[4,4,4-trifluoro-1-({6-[4-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}amino)butyl]benzoyl}-beta-alaninate | 0.093 mmol, 52 mg | FC(CCC(NC=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)NCCC(=O)OCC)C=C1)(F)F | C25H25F6N5O3
reactant | tetrahydrofuran | 0.10 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 0.19 mmol, 2.0M, 0.093 ml | [OH-].[Li+]
solvent | methanol | 0.20 ml | CO | CH4O
product | racemic N-{4-[4,4,4-trifluoro-1-({6-[4-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}amino)butyl]benzoyl}-beta-alanine | FC(CCC(NC=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)NCCC(=O)O)C=C1)(F)F | C23H21F6N5O3
